US09388185B2
Step 3. 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-(4-methylpiperazin-1-yl)benzonitrile
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and 2-(4-methylpiperazin-1-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile. LCMS calculated for C28H31N6O2(M+H)+: m/z=483.2. Found 483.3.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | 2-(4-methylpiperazin-1-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | CN1CCN(CC1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H26BN3O2
product | 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-(4-methylpiperazin-1-yl)benzonitrile | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=C(C#N)C3)N3CCN(CC3)C)C=C(C1)OC | C28H30N6O2
